US06541505B1
N-[2-(3-Cyano-1H-indol-5-y)-ethyl]-4-[2-(2,2,2-trifluoroethoxy)pyrimidin-4-yl]benzamide.
Using trifluoroethanol and N-[2-(3-Cyano-1H-indol-5-yl)-ethyl]-4-[2-chloro-pyrimidin-4-yl]-benzamide (reference example 1az) as substrates. MS (ion spray) m/z 466 (M+H)+.

reactant | trifluoroethanol | C(C(F)(F)F)O | C2H3F3O
reactant | N-[2-(3-Cyano-1H-indol-5-yl)-ethyl]-4-[2-chloro-pyrimidin-4-yl]-benzamide | C(#N)C1=CNC2=CC=C(C=C12)CCNC(C1=CC=C(C=C1)C1=NC(=NC=C1)Cl)=O | C22H16ClN5O
product | N-[2-(3-Cyano-1H-indol-5-y)-ethyl]-4-[2-(2,2,2-trifluoroethoxy)pyrimidin-4-yl]benzamide | C(#N)C1=CNC2=CC=C(C=C12)CCNC(C1=CC=C(C=C1)C1=NC(=NC=C1)OCC(F)(F)F)=O | C24H18F3N5O2
